US04839363
6-Methyl-8β-(isoxazol-5-yl)-ergoline (I, R1 =R2 =H, R3 =CH3, X=O, Y=N)
A mixture of 5 g (0.017 mole) of 3-oxo-3-(6-methylergolin-8β-yl)-propionaldehyde in 100 ml of glacial acetic acid and 5 g of hydroxylamine hydrochloride was stirred for 20 hours at room temperature and then poured in ice-cold water. After basification with ammonium hydroxide, the solid which separated was filtered and dissolved in ethyl acetate. The organic solution was washed with brine, dried and the solvent was removed, and the residue was crystallized twice from acetone affording the title compound, 1.8 g; m.p. 132°-134° C.

reactant | 3-oxo-3-(6-methylergolin-8β-yl)-propionaldehyde | 0.017 mole, 5 g | O=C(CC=O)[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C18H20N2O2
reactant | hydroxylamine hydrochloride | 5 g | Cl.NO
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-Methyl-8β-(isoxazol-5-yl)-ergoline | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)C3=CC=NO3 | C18H19N3O
